US04857543
A solution of methyl 2-dimethylamino-2-(2-thienyl)butyrate (11.4 g) in tetrahydrofuran (50 ml) is added dropwise to a suspension of lithium aluminum hydride (1.6 g) in tetrahydrofuran (50 ml) under ice-cooling. The mixture is stirred at room temperature for 2 hours, and water (1.6 ml), an aqueous 15% sodium hydroxide solution (1.6 ml) and water (4.8 ml) are added to the mixture, successively. After the mixture is stirred, insoluble materials are filtered off, and the filtrate is concentrated under reduced pressure to remove solvent. The residue is distilled under reduced pressure, whereby 2-dimethylamino-2-(2-thienyl)-1-butanol (9.1 g) is obtained as colorless crystals. Yield: 91%

reactant | methyl 2-dimethylamino-2-(2-thienyl)butyrate | 11.4 g | CN(C(C(=O)OC)(CC)C=1SC=CC1)C | C11H17NO2S
reactant | lithium aluminum hydride | 1.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1.6 ml | O | H2O
reactant | sodium hydroxide | 1.6 ml | [OH-].[Na+]
reactant | water | 4.8 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-dimethylamino-2-(2-thienyl)-1-butanol | 9.1 g, Yield: 91% | CN(C(CO)(CC)C=1SC=CC1)C | C10H17NOS
